US08258144B2
A solution of N-benzyl-2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (386 mg, 0.716 mmol), Pd2 dba3 (40 mg, 0.043 mmol) and dppf (80 mg, 0.14 mmol) in DMF (6 mL) was degassed with argon before being charged with Zn(CN)2 (100 mg, 0.555 mmol). The mixture was stirred at 70° C. for 20 h. DMF was removed in vacuo. The residue was purified by HPLC to give 4-(benzylamino)-2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (54 mg).

reactant | N-benzyl-2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.716 mmol, 386 mg | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)Cl)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2 | C20H16ClIN4O2S
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | Pd2 dba3 | 0.043 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.14 mmol, 80 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn(CN)2 | 0.555 mmol, 100 mg | [C-]#N.[C-]#N.[Zn+2]
product | 4-(benzylamino)-2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 54 mg | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)Cl)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2 | C21H16ClN5O2S
